US09422292B2
Iron powder (448 mg, 8.0 mmol) was added to a mixture of ethyl 1-((5-bromo-2-nitrophenylamino)methyl)cyclopropanecarboxylate (684 mg, 2.0 mmol), ammonium chloride aqueous (6 mL) and ethanol (20 mL). The reaction was heated to 70° C. and maintained at the 70° C. for 2 hours. The mixture solution was filtered. The filtrate was evaporated, diluted with water (100 mL), extracted with ethyl acetate (100 mL), and dried by sodium sulfate. The mixture was filtered. The filtrate was concentrated and purified by column chromatography (silica gel, petroleum ether/ethyl acetate=5:1) to give ethyl 1-((2-amino-5-bromophenylamino)methyl)cyclopropanecarboxylate (474 mg, 76%) as off-white solid.

reactant | ethyl 1-((5-bromo-2-nitrophenylamino)methyl)cyclopropanecarboxylate | 2.0 mmol, 684 mg | BrC=1C=CC(=C(C1)NCC1(CC1)C(=O)OCC)[N+](=O)[O-] | C13H15BrN2O4
reactant | ammonium chloride | 6 mL | [Cl-].[NH4+]
catalyst | Iron | 8.0 mmol, 448 mg | [Fe] | Fe
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | ethyl 1-((2-amino-5-bromophenylamino)methyl)cyclopropanecarboxylate | 474 mg, 76% | NC1=C(C=C(C=C1)Br)NCC1(CC1)C(=O)OCC | C13H17BrN2O2
